US05998412
O-(tert-butyldimethylsilyl)hydroxylamine (57 mg, 0.39 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (59 mg, 0.31 mmol) were added to a solution of 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid (100 mg, 0.26 mmol), [prepared as described above] in methylene chloride (4 ml). The reaction mixture was stirred overnight at RT and then diluted with methylene chloride. The solution was washed with water, 10% citric acid, and brine, and dried over MgSO4. After the organics were removed the residue was chromatographed (SiO2, 20-30% ethyl acetate/hexane) to give N-tert-butyldimethylsiloxy-1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxamide as a colorless foam (56%).

reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 0.39 mmol, 57 mg | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.31 mmol, 59 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid | 0.26 mmol, 100 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N1C(CCCC1)C(=O)O | C16H22ClN3O4S
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butyldimethylsiloxy-1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxamide | 56% | O([Si](C)(C)C(C)(C)C)NC(=O)C1N(CCCC1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C22H37ClN4O4SSi
